simulator lang=spectre 
parameters VDD = 1.8
//tr is (transition time)/2
parameters tr = 50p 
//f is the fall time 
//parameters f = 100p
//K is the signal period 
parameters K = 40n 

vVdd (vdd 0) vsource dc=VDD
vGnd (gnd 0) vsource dc=0

vConfig (config 0) vsource type=pwl wave=\[
+ ( 0*K   ) VDD  ( 1*K-tr) VDD
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) VDD  ( 3*K-tr) VDD
+ ( 3*K+tr) VDD  ( 4*K-tr) VDD
+ ( 4*K+tr) VDD  ( 5*K-tr) VDD
+ ( 5*K+tr) VDD  ( 6*K-tr) VDD
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) VDD  ( 8*K-tr) VDD
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) VDD  (10*K-tr) VDD
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) VDD  (12*K-tr) VDD
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) VDD  (14*K-tr) VDD
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) VDD  (16*K-tr) VDD
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vConfig_ (config_ 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) VDD  (17*K-tr) VDD
+ (17*K+tr) VDD  (18*K-tr) VDD
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vWL1 (WL1 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vWL2 (WL2 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vWL3 (WL3 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vWL4 (WL4 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vWL5 (WL5 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vBL1 (BL1 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) VDD  ( 6*K-tr) VDD
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vBL_1 (BL_1 0) vsource type=pwl wave=\[
+ ( 0*K   ) VDD  ( 1*K-tr) VDD
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) VDD  ( 3*K-tr) VDD
+ ( 3*K+tr) VDD  ( 4*K-tr) VDD
+ ( 4*K+tr) VDD  ( 5*K-tr) VDD
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) VDD  ( 8*K-tr) VDD
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) VDD  (10*K-tr) VDD
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) VDD  (12*K-tr) VDD
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) VDD  (14*K-tr) VDD
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) VDD  (16*K-tr) VDD
+ (16*K+tr) VDD  (17*K-tr) VDD
+ (17*K+tr) VDD  (18*K-tr) VDD
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vBL2 (BL2 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) VDD  ( 8*K-tr) VDD
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) VDD  (10*K-tr) VDD
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) VDD  (12*K-tr) VDD
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) VDD  (14*K-tr) VDD
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) VDD  (16*K-tr) VDD
+ (16*K+tr) VDD  (17*K-tr) VDD
+ (17*K+tr) VDD  (18*K-tr) VDD
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vBL_2 (BL_2 0) vsource type=pwl wave=\[
+ ( 0*K   ) VDD  ( 1*K-tr) VDD
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) VDD  ( 3*K-tr) VDD
+ ( 3*K+tr) VDD  ( 4*K-tr) VDD
+ ( 4*K+tr) VDD  ( 5*K-tr) VDD
+ ( 5*K+tr) VDD  ( 6*K-tr) VDD
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vBL3 (BL3 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) VDD  ( 6*K-tr) VDD
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vBL_3 (BL_3 0) vsource type=pwl wave=\[
+ ( 0*K   ) VDD  ( 1*K-tr) VDD
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) VDD  ( 3*K-tr) VDD
+ ( 3*K+tr) VDD  ( 4*K-tr) VDD
+ ( 4*K+tr) VDD  ( 5*K-tr) VDD
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) VDD  ( 8*K-tr) VDD
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) VDD  (10*K-tr) VDD
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) VDD  (12*K-tr) VDD
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) VDD  (14*K-tr) VDD
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) VDD  (16*K-tr) VDD
+ (16*K+tr) VDD  (17*K-tr) VDD
+ (17*K+tr) VDD  (18*K-tr) VDD
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vBL4 (BL4 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) VDD  ( 8*K-tr) VDD
+ ( 8*K+tr) VDD  ( 9*K-tr) VDD
+ ( 9*K+tr) VDD  (10*K-tr) VDD
+ (10*K+tr) VDD  (11*K-tr) VDD
+ (11*K+tr) VDD  (12*K-tr) VDD
+ (12*K+tr) VDD  (13*K-tr) VDD
+ (13*K+tr) VDD  (14*K-tr) VDD
+ (14*K+tr) VDD  (15*K-tr) VDD
+ (15*K+tr) VDD  (16*K-tr) VDD
+ (16*K+tr) VDD  (17*K-tr) VDD
+ (17*K+tr) VDD  (18*K-tr) VDD
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vBL_4 (BL_4 0) vsource type=pwl wave=\[
+ ( 0*K   ) VDD  ( 1*K-tr) VDD
+ ( 1*K+tr) VDD  ( 2*K-tr) VDD
+ ( 2*K+tr) VDD  ( 3*K-tr) VDD
+ ( 3*K+tr) VDD  ( 4*K-tr) VDD
+ ( 4*K+tr) VDD  ( 5*K-tr) VDD
+ ( 5*K+tr) VDD  ( 6*K-tr) VDD
+ ( 6*K+tr) VDD  ( 7*K-tr) VDD
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) 0    (33*K-tr) 0
+ ]
vA (A 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) 0    (25*K-tr) 0
+ (25*K+tr) VDD  (26*K-tr) VDD
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vB (B 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) 0    (21*K-tr) 0
+ (21*K+tr) VDD  (22*K-tr) VDD
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) 0    (29*K-tr) 0
+ (29*K+tr) VDD  (30*K-tr) VDD
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vC (C 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) 0    (19*K-tr) 0
+ (19*K+tr) VDD  (20*K-tr) VDD
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) 0    (23*K-tr) 0
+ (23*K+tr) VDD  (24*K-tr) VDD
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) 0    (27*K-tr) 0
+ (27*K+tr) VDD  (28*K-tr) VDD
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) 0    (31*K-tr) 0
+ (31*K+tr) VDD  (32*K-tr) VDD
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
vD (D 0) vsource type=pwl wave=\[
+ ( 0*K   ) 0    ( 1*K-tr) 0
+ ( 1*K+tr) 0    ( 2*K-tr) 0
+ ( 2*K+tr) 0    ( 3*K-tr) 0
+ ( 3*K+tr) 0    ( 4*K-tr) 0
+ ( 4*K+tr) 0    ( 5*K-tr) 0
+ ( 5*K+tr) 0    ( 6*K-tr) 0
+ ( 6*K+tr) 0    ( 7*K-tr) 0
+ ( 7*K+tr) 0    ( 8*K-tr) 0
+ ( 8*K+tr) 0    ( 9*K-tr) 0
+ ( 9*K+tr) 0    (10*K-tr) 0
+ (10*K+tr) 0    (11*K-tr) 0
+ (11*K+tr) 0    (12*K-tr) 0
+ (12*K+tr) 0    (13*K-tr) 0
+ (13*K+tr) 0    (14*K-tr) 0
+ (14*K+tr) 0    (15*K-tr) 0
+ (15*K+tr) 0    (16*K-tr) 0
+ (16*K+tr) 0    (17*K-tr) 0
+ (17*K+tr) 0    (18*K-tr) 0
+ (18*K+tr) VDD  (19*K-tr) VDD
+ (19*K+tr) 0    (20*K-tr) 0
+ (20*K+tr) VDD  (21*K-tr) VDD
+ (21*K+tr) 0    (22*K-tr) 0
+ (22*K+tr) VDD  (23*K-tr) VDD
+ (23*K+tr) 0    (24*K-tr) 0
+ (24*K+tr) VDD  (25*K-tr) VDD
+ (25*K+tr) 0    (26*K-tr) 0
+ (26*K+tr) VDD  (27*K-tr) VDD
+ (27*K+tr) 0    (28*K-tr) 0
+ (28*K+tr) VDD  (29*K-tr) VDD
+ (29*K+tr) 0    (30*K-tr) 0
+ (30*K+tr) VDD  (31*K-tr) VDD
+ (31*K+tr) 0    (32*K-tr) 0
+ (32*K+tr) VDD  (33*K-tr) VDD
+ ]
